US07812025B2
N-[6-(Acetylamino)pyridin-3-yl]-4-biphenyl-3-ylpiperazine-1-carboxamide
A mixed solution of 2,2,2-trichloroethyl[6-(acetylamino)pyridin-3-yl]carbamate (301 mg, 0.923 mmol), 1-biphenyl-3-ylpiperazine (200 mg, 0.839 mmol) and diisopropylethylamine (0.292 ml, 1.68 mmol) in dimethylsulfoxide (2.5 ml) was stirred at 70° C. for 14 hours. To the reaction solution was added water, and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduce pressure. The residue was recrystallized from a mixed solvent of hexane and tetrahydrofuran to give the titled compound (62.6 mg, 18.0%) as solid product.

reactant | 2,2,2-trichloroethyl[6-(acetylamino)pyridin-3-yl]carbamate | 0.923 mmol, 301 mg | ClC(COC(NC=1C=NC(=CC1)NC(C)=O)=O)(Cl)Cl | C10H10Cl3N3O3
reactant | 1-biphenyl-3-ylpiperazine | 0.839 mmol, 200 mg | C1(=CC(=CC=C1)N1CCNCC1)C1=CC=CC=C1 | C16H18N2
reactant | diisopropylethylamine | 1.68 mmol, 0.292 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | O | H2O
solvent | dimethylsulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | N-[6-(Acetylamino)pyridin-3-yl]-4-biphenyl-3-ylpiperazine-1-carboxamide | 62.6 mg, 18.0% | C(C)(=O)NC1=CC=C(C=N1)NC(=O)N1CCN(CC1)C=1C=C(C=CC1)C1=CC=CC=C1 | C24H25N5O2
